US06022906
8b 1-[4-(3-Iodopropylamino)phenyl]-2-dimethylamino-2-benzyl-propan-1-one
6.7 g (0.02 mol) of 1-[4-(3-Hydroxypropylamino)phenyl]-2-dimethylamino-2-benzyl-propan-1-one, 3.35 g (0.05 mol) of imidazole and 12.9 g (0.05 mol) of triphenyl phosphine are dissolved in 50 ml of methylene chloride. To the solution are added 10 g (0.039 mol) of iodine and stirred at room temperature (about 20° C.) for 1 hour. 100 ml of methylene chloride is added to the reaction mixture and washed with aqueous solution of sodium sulfite and water, and dried over MgSO4. After distilling off the methylene chloride, the residue is purified by means of column chromatography on silica gel with ethyl acetate-hexane (1:3) as an eluent, and an oily product is obtained. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm]: 1.14 (s, 3H), 2.14 (m, 2H), 2.33 (s, 6H), 2.96 (d, 1H), 3.29 (t, 2H), 3.35-3.40 (m, 2H), 3.42 (d, 1H), 4.21 (br, 1H), 6.56 (d, 2H), 6.89-6.91 (m, 2H), 7.10-7.12 (m, 3H), 8.46 (d, 2H).

reactant | 1-[4-(3-Hydroxypropylamino)phenyl]-2-dimethylamino-2-benzyl-propan-1-one | 0.02 mol, 6.7 g | OCCCNC1=CC=C(C=C1)C(C(C)(CC1=CC=CC=C1)N(C)C)=O | C21H28N2O2
reactant | imidazole | 0.05 mol, 3.35 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphine | 0.05 mol, 12.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 0.039 mol, 10 g | II | I2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(3-Iodopropylamino)phenyl]-2-dimethylamino-2-benzyl-propan-1-one | ICCCNC1=CC=C(C=C1)C(C(C)(CC1=CC=CC=C1)N(C)C)=O | C21H27IN2O
